US05773420
N-(5-Hydroxymethyl-2-methylphenyl)-3-nitrobenzamide
To a stirred, cooled (0° C.) mixture of 3-amino-4-methylbenzyl alcohol (10.0 g, 0.072 mol) and pyridine (5.8 g, 0.072 mol) in THF (100 ML) was added 3-nitrobenzoyl chloride (13.5 g, 0.072 mol). After 2 h, the mixture was concentrated, suspended in water and filtered to give a brown solid. Trituration with hot EtOH gave 18.8 g (90%) of product as a white solid, mp 198°-200° C.; 1H NMR (DMSO-d6) δ 2.20 (s, 3 H), 4.46 (s, 2 H), 7.12 (dd, J=7.8 Hz, 1.5 Hz, 1 H), 7.25 (dd, J=7.8, 1.5 Hz, 1 H), 7.82 (m, 1 H), 8.41 (m, 2 H), 8.78 (s, 1 H), 10.26 (s, 1 H).

reactant | 3-amino-4-methylbenzyl alcohol | 0.072 mol, 10.0 g | NC=1C=C(CO)C=CC1C | C8H11NO
reactant | pyridine | 0.072 mol, 5.8 g | N1=CC=CC=C1 | C5H5N
reactant | 3-nitrobenzoyl chloride | 0.072 mol, 13.5 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | EtOH | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | N-(5-Hydroxymethyl-2-methylphenyl)-3-nitrobenzamide | 18.8 g, 90% | OCC=1C=CC(=C(C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C15H14N2O4
